US07507740B2
A solution of 3-[7-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-2H-pyrazolo[4,3-d]pyrimidin-2-yl]propanol (50 mg), N-[2-(methylsulfonyl)ethyl]-2-nitrobenzenesulfonamide (47 mg), 1,1′-(azodicarbonyl)dipiperidine (59 mg) and tributylphosphine (47 mg) in tetrahydrofuran (2 mL) was stirred at room temperature for 4 hrs. After the completion of the reaction, water was added to the reaction mixture and the mixture was diluted with ethyl acetate and washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/methanol=4/1→1/4) to give N-{3-[7-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-2H-pyrazolo[4,3-d]pyrimidin-2-yl]propyl}-N-[2-(methylsulfonyl)ethyl]-2-nitrobenzenesulfonamide. To a solution of this compound in tetrahydrofuran (2 mL) were added 2-mercaptoethanol (12 mg) and 1,8-diazabicyclo[5.4.0]undec-7-ene (23 mg), and the mixture was stirred at room temperature for 3 hrs. After the completion of the reaction, the reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=10/1) to give the title compound (34 mg) as a white solid.

reactant | 3-[7-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-2H-pyrazolo[4,3-d]pyrimidin-2-yl]propanol | 50 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C=2C(N=CN1)=CN(N2)CCCO | C21H19ClFN5O2
reactant | N-[2-(methylsulfonyl)ethyl]-2-nitrobenzenesulfonamide | 47 mg | CS(=O)(=O)CCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C9H12N2O6S2
reactant | 1,1′-(azodicarbonyl)dipiperidine | 59 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 47 mg | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-{3-[7-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-2H-pyrazolo[4,3-d]pyrimidin-2-yl]propyl}-N-[2-(methylsulfonyl)ethyl]-2-nitrobenzenesulfonamide | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C=2C(N=CN1)=CN(N2)CCCN(S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])CCS(=O)(=O)C | C30H29ClFN7O7S2
